US07230107B1
Preparation of the Quinoline Ligand
8.98 g, 0.05 mol of 5-chloro-8-hydroxyquinoline (Aldrich), 10.15 g, 0.06 mol of diphenylamine, 350 mL of 1:1 dioxane/toluene, 0.917 g, 0.001 mol Pd2 DBA3, 0.4350 g, 0.0021 mol of tri-t-butylphosphine, and 18.42 g, 0.11 mol lithium bis(trimethylsilyl)amide were combined and refluxed together for a total of 180 hrs. The mixture was cooled to room temperature and filtered through celite with dichloromethane rinses. The mixture was partially evaporated and the organic layer was washed with 1N HCl then neutralized to pH 8 with saturated sodium bicarbonate. The organic layer was then dried with Na2SO4, filtered and concentrated by rotary evaporation. The product was purified by silica column chromatography using dichloromethane eluent. Yield 11.13 g of a bright yellow solid.

reactant | 5-chloro-8-hydroxyquinoline | 0.05 mol, 8.98 g | ClC1=C2C=CC=NC2=C(C=C1)O | C9H6ClNO
reactant | diphenylamine | 0.06 mol, 10.15 g | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | tri-t-butylphosphine | 0.0021 mol, 0.4350 g | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | lithium bis(trimethylsilyl)amide | 0.11 mol, 18.42 g | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
catalyst | Pd2 DBA3 | 0.001 mol, 0.917 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane toluene | 350 mL | O1CCOCC1.C1(=CC=CC=C1)C
product | Quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
